US07776875B2
Preparation of Intermediate 2-(4-chloro-2-[1,3]dioxolan-2-yl-phenoxy)-pentanoic acid ethyl ester
A mixture of 2-(4-chloro-2-formyl-phenoxy)-pentanoic acid ethyl ester (15 g, 53 mmol), ethylene glycol (25 mL, 440 mmol) and p-toluenesulfonic acid (0.8 g, 4.65 mmol) in toluene (150 mL) was refluxed with a Dean-Stark trap attached. After 3 h, the reaction was cooled and washed with water, saturated NaHCO3 solution and water, and the organic layer was dried over anhydrous Na2SO4 and concentrated to give the title compound as a light yellow oil (16 g).

reactant | 2-(4-chloro-2-formyl-phenoxy)-pentanoic acid ethyl ester | 53 mmol, 15 g | C(C)OC(C(CCC)OC1=C(C=C(C=C1)Cl)C=O)=O | C14H17ClO4
reactant | ethylene glycol | 440 mmol, 25 mL | C(CO)O | C2H6O2
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
catalyst | p-toluenesulfonic acid | 4.65 mmol, 0.8 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 2-(4-chloro-2-[1,3]dioxolan-2-yl-phenoxy)-pentanoic acid ethyl ester | 16 g | C(C)OC(C(CCC)OC1=C(C=C(C=C1)Cl)C1OCCO1)=O | C16H21ClO5
